US08685970B2
A mixture of 2-(3-(difluoromethyl)phenyl)quinoline-8-carboxylic acid (250 mg, 0.84 mmol), thiazol-2-amine (84 mg, 1.2 mmol), HATU (0.64 g, 1.68 mmol) and DIPEA (0.22 g, 1.68 mmol) in DMF (25 mL) was stirred at 40° C. for 12 hours. A saturated solution of NaHCO3 (5 mL) was added and the mixture was filtered, the residue was washed with methanol (2×5 mL) and solid was dried in vacuo to give 2-(3-(difluoromethyl)phenyl)-N-(thiazol-2-yl)quinoline-8-carboxamide as a solid. (125 mg, 39% yield) MS (ESI) calcd for C20H13F2N3OS (m/z): 381.07. found: 382 [M+1].

reactant | 2-(3-(difluoromethyl)phenyl)quinoline-8-carboxylic acid | 0.84 mmol, 250 mg | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)O)F | C17H11F2NO2
reactant | thiazol-2-amine | 1.2 mmol, 84 mg | S1C(=NC=C1)N | C3H4N2S
reactant | HATU | 1.68 mmol, 0.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.68 mmol, 0.22 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-(3-(difluoromethyl)phenyl)-N-(thiazol-2-yl)quinoline-8-carboxamide | 39% yield | FC(C=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1)C(=O)NC=1SC=CN1)F | C20H13F2N3OS
